US07767683B2
Synthesis of 1,2,2-trimethylpiperazine
A solution of lithium aluminium hydride in tetrahydrofuran (THF) (1.0 M, Aldrich cat. no. 21,277-6, 90 ml) is heated to 50° C. on an oil batch. Crude 3,3,4-trimethylpiperazin-2-one (10 g) is suspended in THF and is slowly added, giving evolution of gas. The resulting mixture is stirred at 45-56° C. for 4 hours, giving full conversion to the title compound according to NMR (no signal at 1.2 ppm from starting material). The mixture is cooled, and water (3.3 ml) is added, giving evolution of gas. Then a solution of sodium hydroxide in water (15%, 3.3 ml) is added, giving more gas, and finally water (10 ml) is added. The mixture is filtered, and the filter cake is washed with THF (100 ml). The filtrates are concentrated on a rotary evaporator (0.3 atm. and 60° C. in the water batch). The residue is dissolved in THF (200 ml) and dried with sodium sulphate, then the mixture is filtered, and the filtrate is concentrated on a rotary evaporator (0.2 atm and 60° C. in the water batch) giving 6.4 grams of the title compound. NMR complies with the structure, the substance contains some THF.

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,3,4-trimethylpiperazin-2-one | 10 g | CC1(C(NCCN1C)=O)C | C7H14N2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,2,2-trimethylpiperazine | CN1C(CNCC1)(C)C | C7H16N2
